US04258055
3,7-Dihydroxyflavylium chloride
79 g of 2,4-dihydroxybenzaldehyde were dissolved at room temperature in 800 ml of anhydrous ethyl acetate and 106 g of omega-acetoxyacetophenone were added to the solution. The reaction mixture was brought to 0° C. under agitation and gaseous hydrochloric acid added to saturation. After standing for 24 hours at room temperature, crystallisation of the product began and it was filtered and dried at 40° C. in the presence of NaOH. There were obtained 95 g of 3,7-dihydroxyflavilium chloride.

reactant | 2,4-dihydroxybenzaldehyde | 79 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | omega-acetoxyacetophenone | 106 g | C(C)(=O)OCC(=O)C1=CC=CC=C1 | C10H10O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
product | 3,7-Dihydroxyflavylium chloride | 95 g | [Cl-].OC=1C(=[O+]C2=CC(=CC=C2C1)O)C1=CC=CC=C1 | InChI=1S/C15H10O3.ClH/c16-12-7-6-11-8-13(17)15(18-14(11)9-12)10-4-2-1-3-5-10;/h1-9H,(H-,16,17);1H
